US07846949B2
Tert-butyl 2-(N-(3-bromophenyl)-2,6-difluorobenzamido)acetate (0.55 mmol) is mixed with 2,6-dimethoxyphenyl boronic acid (6.13 mmol) and Pd(Ph3P)4 (0.024 mmol). To the solid mixture under nitrogen, Na2CO3 2M (0.83 mL) is added followed by DMF (5.6 mL). The reaction mixture is stirred at room temperature for 1 hour and then heated at 85° C. for 12 hours. The reaction mixture is purified by automated column chromatography (gradient of hexanes and ethyl acetate) to give tert-butyl 2-(N-(3-(2,6-dimethoxyphenyl)phenyl)-2,6-difluorobenzamido)acetate: 1H NMR (400 MHz, CDCl3) δ7.19 (m, 6H), 6.69 (t, J=7.2 Hz, 2H), 6.58 (d. J=8.4 Hz, 2H), 4.46 (s, 2H), 3.64 (s, 6H), 1.48 (s, 9H); MS: (ES+) 484.1 (M+23)+.

reactant | Tert-butyl 2-(N-(3-bromophenyl)-2,6-difluorobenzamido)acetate | 0.55 mmol | BrC=1C=C(C=CC1)N(C(C1=C(C=CC=C1F)F)=O)CC(=O)OC(C)(C)C | C19H18BrF2NO3
reactant | 2,6-dimethoxyphenyl boronic acid | 6.13 mmol | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
reactant | Na2CO3 | 2M, 0.83 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 0.024 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 5.6 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(N-(3-(2,6-dimethoxyphenyl)phenyl)-2,6-difluorobenzamido)acetate | COC1=C(C(=CC=C1)OC)C=1C=C(C=CC1)N(C(C1=C(C=CC=C1F)F)=O)CC(=O)OC(C)(C)C | C27H27F2NO5
